US06395753B1
Synthesis of 4-(p-anisidino)-1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]piperidine:
1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]-4-piperidone (350 mg) and p-anisidine (123 mg) were condensed in the same manner as described in Preparation Example 37 to give the title compound.

reactant | 1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | 350 mg | COC=1C=C(C=C(C1OC(C)C)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C22H28N2O4
reactant | p-anisidine | 123 mg | COC1=CC=C(C=C1)N | C7H9NO
product | 4-(p-anisidino)-1-[[2-(3,5-dimethoxy-4-isopropoxyphenyl)pyridin-4-yl]methyl]piperidine | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC(C)C)OC | C29H37N3O4
